US07378418B2
Preparation of 2-((1-Benzylpiperidin-4-yl)methyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a THF solution (2 ml) of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (40 mg, 0.11 mmol), prepared as described in Example 1, (1-benzyl-4-piperidyl)methanol (27 mg 0.13 mmol), and triphenylphospine (86 mg, 0.32 mmol) was added diethyl azodicarboxylate (0.15 ml, 0.38 mmol). After 1 hour, the reaction mixture was concentrated. The crude material was purified by preparative HPLC to give the title compound, 2-((1-benzylpiperidin-4-yl)methyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (6.1 mg, 10%) as a yellow solid. MS M+H=544; 1HNMR (CDCl3) δ 8.19 (1H), 7.42 (2H), 7.32-7.20 (9H), 7.11 (2H), 4.19 (1H), 4.02 (2H), 3.66 (2H), 2.63 (2H), 2.12 (2H), 1.91 (4H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.11 mmol, 40 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | (1-benzyl-4-piperidyl)methanol | 0.13 mmol, 27 mg | C(C1=CC=CC=C1)N1CCC(CC1)CO | C13H19NO
reactant | triphenylphospine | 0.32 mmol, 86 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.38 mmol, 0.15 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-((1-benzylpiperidin-4-yl)methyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 6.1 mg, 10% | C(C1=CC=CC=C1)N1CCC(CC1)CN1N=C2N(N=CC(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C1=O | C30H27Cl2N5O
